US08247556B2
3-Nitro-7,8-dihydro-5H-[1,6]naphthyridine-6-carboxylic acid tert-butyl ester (1.0 g, 3.6 mmol), was added to EtOH (10 mL) in a sealed tube. 10% Pd/C (500 mg) was added and the mixture was heated to 170° C. for 16 h. The reaction mixture was cooled to RT, diluted with EtOH (10 mL), and filtered through Celite®. The solvent was removed under reduced pressure affording [1,6]naphthyridin-3-ylamine as yellow solid.

reactant | 3-Nitro-7,8-dihydro-5H-[1,6]naphthyridine-6-carboxylic acid tert-butyl ester | 3.6 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CC=2C=C(C=NC2CC1)[N+](=O)[O-] | C13H17N3O4
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | 500 mg | [Pd] | Pd
solvent | EtOH | 10 mL | CCO | C2H6O
product | [1,6]naphthyridin-3-ylamine | N1=CC(=CC2=CN=CC=C12)N | C8H7N3
